Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / Cipro / Percocet / Vicodin / Nexium / doxycycline
 
Attending: ___.
 
Chief Complaint:
nausea, failure to thrive 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old female with history of lung cancer (dx ___, s/p 
chemo/partial R lobectomy with R lung metastasis s/p XRT ___, 
oropharyngeal dysphagia ___ pharyngeal paresis s/p G-tube to GJ 
tube conversion 3 weeks prior, presents with nausea, increased 
stool frequency and failure to thrive. Per patient, she 
developed nausea with dry heaving a few months ago that was 
associated with 30 lb wt loss with GJ tube conversion 3 weeks 
ago to address these issues. She reports improvement in symptoms 
for 3 days however patient developed nausea with dry heaves 
again about 3 days ago associated with frequent soft but formed 
stools.  She also reports 4 lb wt loss in past week alone, 
generalized malaise and cough. Of note, patient is able to 
tolerate PO in the past but unable to tolerate PO for past week, 
also severely underweight (BMI 16), has not seen nutritionist 
since ___.  She denies fevers, chills, abdominal pain, dysuria, 
hematuria, numbness, tingling.

In the ED, initial vitals were 98.8 84 139/62 18 92% RA.  Labs 
showed Na 131.  CXR showed no consolidation.  GJ tube check was 
unremarkable.  She received Fioricet x 1.

Currently, the patient reports some dyspnea which is new.  There 
is no chest pain.  She has chronic daily headaches.  There is no 
abdominal pain.  She reports no fevers or chills.
 
Review of systems:  
10 pt ROS negative other than noted
 
Past Medical History:
Lung cancer (bronchogenic carcinoma stage 1B) s/p radiation and 
thoracic surgery in ___ c/b need for gtube placement
Hypertension
Hyperlipidemia
GERD
COPD
Tension HA
Allergic rhinitis  
 
Social History:
___
Family History:
No known prior history of GI motility issues
 
Physical Exam:
Admission physical exam
Vitals: 98.4PO 126 / 76 88 20 96% 2L 
GEN: Alert, oriented to name, place and situation. Fatigued
appearing but comfortable, no acute signs of distress. 
Cachectic.
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP
clear, MMM.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  GJ tube 
in
place. 
EXTR: No lower leg edema  
DERM: No active rash.  
Neuro: moving all four extremities purposefully, non-focal.  
PSYCH: Appropriate and calm.  

Discharge physical exam
VITALS: ___ 0717 Temp: 98.4 PO BP: 116/71 HR: 86 RR: 18 O2 
sat: 94% O2 delivery: 1L NC 
GENERAL: Thin elderly woman. Alert and in no apparent distress.
EYES: Anicteric, normal conjunctivae. Pupils equally round.
CV: Heart regular, no murmur, no S3, no S4. No peripheral edema.
RESP: Lungs clear to auscultation with moderately reduced air 
movement bilaterally. Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. J-tube in place. No hepatomegaly or 
splenomegaly.
SKIN: No rashes or ulcerations noted. No induration or masses.
NEURO: Alert and oriented. Face symmetric, gaze conjugate with 
EOMI, speech fluent. Sensation to light touch grossly intact 
throughout.
 
Pertinent Results:
Admission Labs
___ 11:55AM   WBC-5.2 RBC-5.13 HGB-15.7 HCT-47.7* MCV-93 
MCH-30.6 MCHC-32.9 RDW-13.3 RDWSD-45.3
___ 11:55AM   PLT COUNT-159
___ 11:55AM   NEUTS-74.2* LYMPHS-12.8* MONOS-10.9 EOS-1.5 
BASOS-0.2 IM ___ AbsNeut-3.89 AbsLymp-0.67* AbsMono-0.57 
AbsEos-0.08 AbsBaso-0.01
___ 11:55AM   ALBUMIN-4.1 CALCIUM-9.3 PHOSPHATE-3.3 
MAGNESIUM-2.2
___ 11:55AM   LIPASE-43
___ 11:55AM   ALT(SGPT)-26 AST(SGOT)-65* ALK PHOS-78 TOT 
BILI-0.5
___ 11:55AM   GLUCOSE-117* UREA N-16 CREAT-0.4 SODIUM-131* 
POTASSIUM-6.1* CHLORIDE-90* TOTAL CO2-28 ANION GAP-13
___ 01:06PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-8.0 
LEUK-NEG
___ 01:06PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 01:06PM URINE  OSMOLAL-367
___ 01:06PM URINE  HOURS-RANDOM UREA N-444 CREAT-23 
SODIUM-66
___ 02:01PM   K+-4.1

Discharge Labs
___ 07:45AM BLOOD WBC-4.5 RBC-4.72 Hgb-14.2 Hct-45.2* 
MCV-96 MCH-30.1 MCHC-31.4* RDW-13.0 RDWSD-46.5* Plt ___
___ 07:45AM BLOOD Glucose-132* UreaN-14 Creat-0.3* Na-138 
K-4.9 Cl-93* HCO3-36* AnGap-9*

CXR on admission:
Relatively low lung volumes. Status post right upper lobectomy
with stable postsurgical changes. No new focal consolidation to
suggest pneumonia. 

GI/GJ tube check on admission:
Tip of jejunostomy tube ends in the proximal jejunum. There is 
no
evidence of extraluminal contrast. 

CTA chest 
1. No pulmonary embolus or acute aortic process.
2. Dilated pulmonary arteries are suggestive of chronic 
pulmonary hypertension.
3. Mild cardiomegaly.
4. Moderate bilateral centrilobular emphysema.  Post right upper 
lobectomy. 
No recurrent mass or lymphadenopathy.

 
Brief Hospital Course:
___ year old female with history of lung cancer (dx ___, s/p 
chemo/partial right lobectomy with right lung metastasis s/p XRT 
___, oropharyngeal dysphagia ___ pharyngeal paresis s/p G-tube 
to GJ tube conversion 3 weeks prior, presents with nausea, 
increased stool frequency and failure to thrive. 

# Malnutrition
# Failure to thrive 
# Weight loss
# Nausea
She has had extensive workup as outpatient for the last 6 or so 
months including transition from G to J tube, changes in tube 
feeds, and still no improvement. In the hospital she noted 
feeling better with use of oxygen. GI was consulted and 
recommended consideration of neuroimaging to evaluate for 
central causes of nausea which was deferred as inpatient. 
Symptom management and supportive care was continued. It was 
felt that she would not benefit from any changes to her tube 
feed regimen, which had previously been attempted to address her 
symptoms. 

# Hypoxemia
Likely multifactorial ___ COPD and prior Lung Ca as well as 
aspiration. In the hospital she initially required supplemental 
oxygen but was subsequently >88% at rest. Nocturnally, she 
desaturated to the low 80% and was continued on 1L via NC. A CT 
scan was done which did not show PE or recurrence of her cancer 
or infiltrate. Her next CT is scheduled for ___ as an 
outpatient for screening. Pulmonary saw the patient and 
recommended initiation of duonebs q6hrs since she has been 
intolerant of other inhaled medications such as Breo or Anoro 
___ her dysphagia. Subsequently, she had ambulatory saturations 
done, which showed that she was 89% at rest on room air, 84-87% 
while ambulating on room air, and 96% ambulating on 2L 
supplemental oxygen. She continued to do well with 1L NC, which 
was started as outpatient, in particular with exertion and at 
night. She is set up already to see pulmonary as an outpatient 
later this month and can follow up to discuss other changes 
needed to her regimen.

# Diarrhea, resolved 
Attributed to contrast load, Imodium prn, stool studies 
negative.
 
# Hyponatremia, resolved
Attributed to hypovolemia the day of admission, responded to 
fluids, resolved.

# Hypertension: continued home metoprolol

# GERD: continued home ranitidine

TRANSITIONAL ISSUES
[ ] CTA showed dilated pulmonary arteries; please consider 
obtaining a TTE as outpatient to evaluate for possible pulmonary 
hypertension, likely secondary to her lung disease.
[ ] Please continue current lung cancer screening.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Pain - Mild 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Simvastatin 20 mg PO QPM 
5. Ranitidine 150 mg PO BID 
6. Vitamin D 1000 UNIT PO DAILY 
7. Metoprolol Tartrate 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN shortness of 
breath 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 
ampule inhaled via nebulizaiton every six (6) hours Disp #*60 
Ampule Refills:*1 
2.  Acetaminophen-Caff-Butalbital 1 TAB PO Q4H:PRN Pain - Mild 
Do not exceed 6 tablets/day  
3.  Aspirin 81 mg PO DAILY  
4.  Fluticasone Propionate NASAL 1 SPRY NU BID  
5.  Metoprolol Tartrate 12.5 mg PO DAILY  
6.  Ranitidine 150 mg PO BID  
7.  Simvastatin 20 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  
9.Oxygen
Oxygen concentrator and portal tank via nasal cannula at 1 L/min
Diagnosis: COPD (J44.9)
Duration: indefinitely
10.Nebulizer
Please dispense 1 nebulizer machine to be used as directed
Quality: 1
Duration: ongoing
Diagnosis: COPD (___.9)

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Chronic obstructive pulmonary disease
Hypoxemia
Hyponatremia
Nausea
Cough
Malaise
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with nausea, coughing, and low 
oxygen saturation. Your nausea and coughing improved with use of 
oxygen at night time. You will be set up with oxygen at home to 
use while you sleep. Your low oxygenation is attributed in part 
to your COPD, as well as your prior history lung cancer. Please 
follow up with your pulmonologist as already scheduled in 2 
weeks.

We wish you the best.

Sincerely, 

Your care team at ___
 
Followup Instructions:
___